US05162547
A 750 ml reactor equipped with reflux condenser, thermometer, stirrer and metering device for epichlorohydrin is charged with 72.9 g (0.4 mol) of sorbitol and 1.25 g (0.008 mol) of tin difluoride in 88.5 g (0.957 mol) of epichlorohydrin, and the charge is heated to 110° C. Then, with stirring, 132.1 g (1.429 mol) of epichlorohydrin are added at a rate of 1.5 ml/min, while keeping the temperature at 110°-115° C. Stirring is continued for a further 8 hours at 125°-130° C. Excess epichlorohydrin is removed by distillation under a water jet vacuum and the residue is diluted with 441 g of methyl isobutyl ketone. With efficient stirring, 142.4 g (1.78 mol) of a 50% solution of sodium hydroxide are added dropwise over 1 hour and the reaction mixture is kept for another 2 hours at this temperature. The reaction mixture is neutralised by addition of dry ice and filtered, and the organic phase is dried over magnesium sulfate. The solvent is removed on a rotary evaporator and the residue is dried under vacuum (2 hours/60° C.), giving 155.2 g of sorbitol glycidyl ether for which the following analytical values are obtained: epoxy value: 5.5 eq/kg; total chlorine content 15.56%; hydrolysable chlorine content 1.09%; viscosity at 40° C.: 2460 mPa.s; average molecular weight Mn (GPC): 658.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sorbitol | 0.4 mol, 72.9 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | epichlorohydrin | 0.957 mol, 88.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | epichlorohydrin | 1.429 mol, 132.1 g | C(Cl)C1CO1 | C3H5ClO
catalyst | tin difluoride | 0.008 mol, 1.25 g | [Sn](F)F
product | sorbitol glycidyl ether | 155.2 g | C(C1CO1)OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H18O7
